US06376496B1
Step 3: [2,2-Bis(trifluoromethyl)-4-oxo-1,3-dioxolan-5-yl]methyl cyclohexane
2-Hydroxy-3-cyclohexylpropionic acid prepared as described in Step 2 (2.24 g, 13.0 mmol) was treated as described in J.Org. Chem., 1995, 60, 7641-7645 to provide [2,2-Bis(trifluoromethyl)-4-oxo-1,3-dioxolan-5-yl]methyl cyclohexane. Thus, a solution of hexafluoroacetone (27.3 mmol) in DMSO (5 mL) was added to 2-hydroxy-3-cyclohexylpropionic acid and the mixture stirred for 2 hours under a dry ice condenser. The mixture was then diluted with 100 mL of 1:1 methylene chloride/water and the aqueous layer extracted twice with methylene chloride. The combined organic layers were dried and concentrated to provide the title compound. 1H-NMR (CDCl3): 4.7 ppm (m, 1H); 1.6-1.9 ppm (m, 5H); 1.3 ppm (m, 3H); 0.95 ppm (m, 2H).

reactant | hexafluoroacetone | 27.3 mmol | FC(C(=O)C(F)(F)F)(F)F | C3F6O
reactant | 2-hydroxy-3-cyclohexylpropionic acid | OC(C(=O)O)CC1CCCCC1 | C9H16O3
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | methylene chloride water | 100 mL | C(Cl)Cl.O
product | [2,2-Bis(trifluoromethyl)-4-oxo-1,3-dioxolan-5-yl]methyl cyclohexane | FC(C1(OC(C(O1)=O)CC1CCCCC1)C(F)(F)F)(F)F | C12H14F6O3
